US08466156B2
1.3. 4-((S)-2-benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester
To a solution of Z-(L)Glu(OtBu)-OH (25.2 g) in DCM/THF (240 mL/60 mL) were added EDCI hydrochloride (17.2 g), HOBT hydrate (13.7 g) and DIPEA (28.2 mL). After stirring at RT for 5 min, intermediate 1.2 (20 g) was added. The mixture was stirred at RT overnight. DCM and water were added and the phases were separated. The org. phase was washed with 2M Na2CO3, with 1M NaHSO4 and with brine, was dried (Na2SO4) and evaporated off. Drying under HV gave the desired compound as an orange oil (40 g).

reactant | Z-(L)Glu(OtBu)-OH | 25.2 g | N([C@@H](CCC(OC(C)(C)C)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C17H23NO6
reactant | EDCI hydrochloride | 17.2 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT hydrate | 13.7 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | DIPEA | 28.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DCM THF | 240 mL | C(Cl)Cl.C1CCOC1
solvent | water | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-((S)-2-benzyloxycarbonylamino-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid butyl ester | 40 g | C(CCC)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)=O | C26H39N3O7
